US04298739
To a solution of 2.8 g of 1-methyl-6-[3-(N-methyl-N-cyclohexylaminocarbonyl)propoxy]carbostyril in 50 ml of methanol is added 0.1 g of palladium black, and the mixture is reacted at 50° C. under hydrogen pressure of 2.5 atm. for 8 hours. After the reaction, the catalyst is filtered out and the filtrate is concentrated and evaporated to dryness. The residue is recrystallized from ligroin to obtain 1.9 g of 1-methyl-6-[3-(N-methyl-N-cyclohexylaminocarbonyl)propoxy]-3,4-dihydrocarbostyril in the form of colorless needle-like crystals with melting point of 104.5°-106.5° C.

reactant | 1-methyl-6-[3-(N-methyl-N-cyclohexylaminocarbonyl)propoxy]carbostyril | 2.8 g | CN1C(=O)C=CC2=CC(=CC=C12)OCCCC(=O)N(C1CCCCC1)C | C21H28N2O3
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium black | 0.1 g | [Pd] | Pd
product | 1-methyl-6-[3-(N-methyl-N-cyclohexylaminocarbonyl)propoxy]-3,4-dihydrocarbostyril | 1.9 g | CN1C(=O)CCC2=CC(=CC=C12)OCCCC(=O)N(C1CCCCC1)C | C21H30N2O3
